US06320050B1
A solution of 2-[3-cyclopentyl-2-(3,4-dichlorophenyl)-propionylamino]-thiazole-4-carboxylic acid ethyl ester (prepared in Example 1(B)(f), 200 mg, 0.45 mmol) in tetrahydrofuran (3 mL) at 25° C. was slowly treated with sodium borohydride (26.0 mg, 0.68 mmol). The reaction mixture was heated under reflux for 48 h. The reaction mixture was allowed to cool to 25° C. and then slowly quenched by the dropwise addition of water. The resulting reaction mixture was partitioned between water and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 1/1 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(3,4-dichlorophenyl)-N-(4-hydroxymethyl-thiazol-2-yl)-propionamide (44.9 mg, 25%) as a white solid: mp 88-90° C.; EI-HRMS m/e calcd for C18H20Cl2N2O2S (M+) 398.0623, found 398.0631.

reactant | 2-[3-cyclopentyl-2-(3,4-dichlorophenyl)-propionylamino]-thiazole-4-carboxylic acid ethyl ester | 0.45 mmol, 200 mg | C(C)OC(=O)C=1N=C(SC1)NC(C(CC1CCCC1)C1=CC(=C(C=C1)Cl)Cl)=O | C20H22Cl2N2O3S
reactant | sodium borohydride | 0.68 mmol, 26.0 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-cyclopentyl-2-(3,4-dichlorophenyl)-N-(4-hydroxymethyl-thiazol-2-yl)-propionamide | 44.9 mg, 25% | C1(CCCC1)CC(C(=O)NC=1SC=C(N1)CO)C1=CC(=C(C=C1)Cl)Cl | C18H20Cl2N2O2S
